US04001313
In a 200-ml autoclave were placed 12 grams (0.05 mole) of anhydrous potassium p-(2-aminoethyl)benzene sulfonate, 6.1 grams (0.11 mole) of potassium amide and 55 ml of liquid ammonia in the same manner as in Example 1. The resultant mixture was heated at 135° C for 5 hours. The reaction pressure in the autoclave was 115 atm. during the reaction. After the ammonia was removed, 10 ml of water was added to the reaction mixture for hydrolysis. The product was extracted with ether and the ether was distilled off to produce crude 4-(2-aminoethyl)aniline. The recrystallization thereof from ether gave 5.6 grams of 4-(2-aminoethyl)aniline having a melting point of 62° to 63° C and boiling point of 140° to 142° C/12 mm Hg. Yield was 82.5%.

reactant | potassium p-(2-aminoethyl)benzene sulfonate | 0.05 mole, 12 grams | NCCC1=CC=C(C=C1)S(=O)(=O)[O-].[K+]
reactant | potassium amide | 0.11 mole, 6.1 grams | [NH2-].[K+]
reactant | ammonia | N | H3N
product | 4-(2-aminoethyl)aniline | 5.6 grams, Yield was 82.5% | NCCC1=CC=C(N)C=C1 | C8H12N2
